US04466805
The starting material can be obtained as follows: 70.4 g of trimeric glyoxal dihydrate, 636 g of (1-formylethylidene)-triphenyl-phosphorane and 1.8 l of dry dimethylformamide are stirred at 80° under nitrogen for 4 hours; the solvent is distilled off; the residue is extracted with 1,2-dichloroethane; the 1,2-dichloroethane is distilled off; the residue is dissolved in toluene, the solution is filtered; and, after distilling off the solvent from the filtrate, 2,5-diformyl-2,4-hexadiene is obtained as a residue, which can be further processed immediately.

reactant | glyoxal dihydrate | 70.4 g | O.O.C(=O)C=O
reactant | (1-formylethylidene)-triphenyl-phosphorane | 636 g | C(=O)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | dimethylformamide | 1.8 l | CN(C=O)C | C3H7NO
product | 2,5-diformyl-2,4-hexadiene | C(=O)C(C)=CC=C(C)C=O | C8H10O2
